US08912186B2
By a procedure similar to that of example 1.59.1, starting from 4-chlorobenzaldehyde and p-(trifluoromethyl)acetophenone, 3-(4-chlorophenyl)-1-(4-(trifluoromethyl)-phenyl)prop-2-en-1-one was obtained as beige coloured solid.

reactant | 4-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | p-(trifluoromethyl)acetophenone | FC(C1=CC=C(C=C1)C(C)=O)(F)F | C9H7F3O
product | 3-(4-chlorophenyl)-1-(4-(trifluoromethyl)-phenyl)prop-2-en-1-one | ClC1=CC=C(C=C1)C=CC(=O)C1=CC=C(C=C1)C(F)(F)F | C16H10ClF3O
